US04436748
A mixture of 2.7 g of 6,7-dichloro-5-hydroxy-3-phenylbenzo[b]thiophene, 1.6 g of ethyl bromoacetate, 1.3 g of potassium carbonate and 30 ml of dimethylforamide is stirred at 60°-70° for 30 min. The mixture is filtered to remove inorganic salts and the filtrate is concentrated in vacuo to an oily residue. To the residue is added 10 mil of 40% sodium hydroxide and 30 ml of water and the mixture was heated on a steam bath for 30 min. After acidification of the mixture to pH 2, the solid product was extracted into ether, washed and dried. Concentration in vacuo gives 2.6 g of [(6,7-dichloro-3-phenylbenzo[b]thien-5-yl)oxy]acetic acid as crystals which have mp 152°-154° after recrystallization from acetone-hexane.

reactant | 6,7-dichloro-5-hydroxy-3-phenylbenzo[b]thiophene | 2.7 g | ClC=1C(=CC2=C(SC=C2C2=CC=CC=C2)C1Cl)O | C14H8Cl2OS
reactant | ethyl bromoacetate | 1.6 g | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | 1.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylforamide | 30 ml | CN(C=O)C | C3H7NO
product | [(6,7-dichloro-3-phenylbenzo[b]thien-5-yl)oxy]acetic acid | 2.6 g | ClC=1C(=CC2=C(SC=C2C2=CC=CC=C2)C1Cl)OCC(=O)O | C16H10Cl2O3S
